US04125729
Methyl α-(p-chlorophenoxy)-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate
To a solution of 1.38 g of p-chlorophenol and 0.585 g of sodium methoxide in 10 ml of methanol is added a solution of 3.53 g of methyl α-bromo-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate in 15 ml of methanol. The mixture is refluxed for 20 hours, chilled and filtered to give 2.71 g of white crystals, mp 182°-183° C. Recrystallization by heating in 75 ml of acetone and adding 20 ml of dichloromethane, followed by adding hexane gives on chilling the product as white crystals, mp 182°-183° C.

reactant | p-chlorophenol | 1.38 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium methoxide | 0.585 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate | 3.53 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C16H15BrO5S
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | Methyl α-(p-chlorophenoxy)-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate | 2.71 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)S(=O)(=O)C)C=C1 | C22H19ClO6S
